US07951956B2
Pyrrolidine (0.75 g, 10.6 mmol) was added to an N,N-dimethylacetamide (15 ml) solution of 5-chloromethylfuran-2-carboxylic acid ethyl ester (1.0 g, 5.3 mmol), and stirred at room temperature for 24 hours. The solvent was evaporated, and the residue was purified using medium pressure silica gel flash column chromatography (NH silica gel, chloroform:methanol=98:2) to afford 5-pyrrolidine-1-yl-methyl-furan-2-carboxylic acid ethyl ester (793 mg, 67%).

reactant | Pyrrolidine | 10.6 mmol, 0.75 g | N1CCCC1 | C4H9N
reactant | 5-chloromethylfuran-2-carboxylic acid ethyl ester | 5.3 mmol, 1.0 g | C(C)OC(=O)C=1OC(=CC1)CCl | C8H9ClO3
reactant | N,N-dimethylacetamide | 15 ml | CN(C(C)=O)C | C4H9NO
product | 5-pyrrolidine-1-yl-methyl-furan-2-carboxylic acid ethyl ester | 793 mg, 67% | C(C)OC(=O)C=1OC(=CC1C)N1CCCC1 | C12H17NO3
